US08563575B2
130d) 3-[4-(benzyloxy)phenyl]-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a solution of 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylic acid (221 mg) and Et3N (0.238 mL) in toluene (15 mL) was added diphenylphosphoryl azide (0.245 mL) at room temperature. The mixture was stirred at 110° C. for 4 h. After cooling, the solvent was evaporated, and the precipitate was collected by filtration to give the title compound (197 mg).

reactant | 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylic acid | 221 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC(=C1C(=O)O)C(F)(F)F | C20H15F3N2O3
reactant | Et3N | 0.238 mL | CCN(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.245 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-(benzyloxy)phenyl]-7-(trifluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 197 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2C(F)(F)F)=O | C20H14F3N3O2
